US05206390
2-Ethoxy-5,12-bis-(trifluoroacetoxy)-naphthacene
2 g (6.62 mmol) of 2-ethoxynaphthacene-5,12-dione, 55 ml of trifluoroacetic anhydride, 2.7 g of sodium trifluoroacetate, 20 ml of ethyl acetate and 1.08 g (16.54 mmol) of zinc dust are stirred for 3 hours at 25°-30° C. The mixture is filtered and the residue is washed several times with tetrahydrofuran/CH2Cl2. The filtrates are evaporated and the residue is triturated with diethyl ether. The crystals are filtered off and recrystallized from toluene: yield 2.83 g (86%); melting point 165°-70° C.

reactant | 2-ethoxynaphthacene-5,12-dione | 6.62 mmol, 2 g | C(C)OC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C20H14O3
reactant | trifluoroacetic anhydride | 55 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium trifluoroacetate | 2.7 g | FC(C(=O)[O-])(F)F.[Na+]
catalyst | zinc | 16.54 mmol, 1.08 g | [Zn] | Zn
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-Ethoxy-5,12-bis-(trifluoroacetoxy)-naphthacene | C(C)OC1=CC2=C(C3=CC4=CC=CC=C4C=C3C(=C2C=C1)OC(C(F)(F)F)=O)OC(C(F)(F)F)=O | C24H14F6O5
